US09315485B2
Synthesis of 2-propyl-1,3-dioxane
This example illustrates the limitations of conventional synthesis methods. A 500 mL round bottom was charged with 191 g normal butyraldehyde, 101 g of 1,3-propanediol, and 4 drops 85% phosphoric acid. The round bottom was fitted with a Dean-Stark trap and condenser and the entire apparatus was placed into an electric heating mantle and brought to reflux. The aldehyde/water azeotrope condensed and separated into the trap. Heating was maintained until 24 mL of water had evolved (1 hr). The mixture was cooled and poured into a separatory funnel. The solution was washed twice with 50 mL of saturated sodium bicarbonate solution and once with 50 mL of distilled water. The organics were dried over MgSO4 and the residue distilled. A fraction collected at 150° C. was 99.6% acetal and had a mass of 95.7 g. This corresponds to a yield of 56%, lower than the yields reported in Table II.

reactant | butyraldehyde | 191 g | C(CCC)=O | C4H8O
reactant | 1,3-propanediol | 101 g | C(CCO)O | C3H8O2
catalyst | phosphoric acid | 4 drops | P(O)(O)(O)=O | H3O4P
product | 2-propyl-1,3-dioxane | yield of 56% | C(CC)C1OCCCO1 | C7H14O2
